US05780500
a) 2-(3-Chlorophenoxy)benzaldehyde
Preparation analogous to Example 12 a) from 2-fluoro-benzaldehyde and 3-chlorophenol. Yield: 69%; yellow oil after bulb tube distillation (150°-180° C., 0.001 torr); 1H-NMR (CDCl3, 200 MHz): 6.92-7.38 (m, 6H); 7.55 (m, 1H); 7.95 (m, 1H), 10.48 (s, 1H).

reactant | 2-fluoro-benzaldehyde | FC1=C(C=O)C=CC=C1 | C7H5FO
reactant | 3-chlorophenol | ClC=1C=C(C=CC1)O | C6H5ClO
product | 2-(3-Chlorophenoxy)benzaldehyde | Yield: 69% | ClC=1C=C(OC2=C(C=O)C=CC=C2)C=CC1 | C13H9ClO2
